US04532341
A solution of 17.75 g (0.075 mole) of 2-(4-chlorophenyl-ethenyl)-2-tert.-butyl-oxirane and 6.9 g (0.1 mole) of 1,2,4-triazole in 30 ml of ethanol was heated in a bomb tube at 150° C. for 20 hours. The reaction mixture was then concentrated and the crystalline residue was stirred with ether. The solid was then filtered off and recrystallised from acetonitrile. 17.7 g (77% of theory) of 1-(4-chlorophenyl)-4,4-dimethyl-3-(imidazol-1-yl-methyl)-1-penten-3-ol of melting point 139°-41° C. were obtained.

reactant | 2-(4-chlorophenyl-ethenyl)-2-tert.-butyl-oxirane | 0.075 mole, 17.75 g | ClC1=CC=C(C=C1)C=CC1(OC1)C(C)(C)C | C14H17ClO
reactant | 1,2,4-triazole | 0.1 mole, 6.9 g | N1N=CN=C1 | C2H3N3
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | 1-(4-chlorophenyl)-4,4-dimethyl-3-(imidazol-1-yl-methyl)-1-penten-3-ol | 17.7 g, 77% | ClC1=CC=C(C=C1)C=CC(C(C)(C)C)(O)CN1C=NC=C1 | C17H21ClN2O
